US06075156
Vinyl hexanoate (100 ml) and dicyclopentadiene (15 ml) were brought to reflux under nitrogen (160° C.). Over a period of 24-36 h, a further 9 additions (each 15 ml) of dicyclopentadiene were made, and heating under reflux continued. During this time, the temperature of the boiling liquid increased until after the last addition it was about 205° C. Excess starting materials were then allowed to distil off. After cooling of the mixture to 50° C., methanol (200 ml) was added and the precipitate allowed to form and settle, cooling to 20° C. The ester solution was decanted off and the precipitate washed with a further batch of methanol (100 ml). The methanol solutions were combined and evaporated under reduced pressure at 40-50° C. to yield about 114 g crude norbornenyl hexanoate (estimated molar yield 25% based on the vinyl hexanoate). This material was suitable for biotransformation.

reactant | dicyclopentadiene | 15 ml | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | Vinyl hexanoate | 100 ml | C(CCCCC)(=O)OC=C | C8H14O2
product | norbornenyl hexanoate | about 114 g, yield 25% | C(CCCCC)(=O)OC12C=CC(CC1)C2 | C13H20O2
